US07326732B2
(i) 2-Phenyl-furan (119)
Bromobenzene (1.5 g, 9.55 mmol) was coupled to 2-furylboronic acid (1.75 g, 15.6 mmol) using Method E. The crude compound was purified by column chromatography using a stepped gradient of 5-10% EtOAc in heptane to give the title compound.

reactant | Bromobenzene | 9.55 mmol, 1.5 g | BrC1=CC=CC=C1 | C6H5Br
reactant | 2-furylboronic acid | 15.6 mmol, 1.75 g | O1C(=CC=C1)B(O)O | C4H5BO3
product | 2-Phenyl-furan | C1(=CC=CC=C1)C=1OC=CC1 | C10H8O
